US06034246
2-(4'-Acetamidophenyl)benzoxazole (DF140A)
2-(4'-Aminophenyl)benzoxazole (1.0 g, 4.76 mmol) was treated with acetic anhydride (5 g) in benzene according to the above-described general procedure for acetylation. A red powder was afforded (0.9 g, 75%), m.p. 213.5-214.8° C.

reactant | 2-(4'-Aminophenyl)benzoxazole | 4.76 mmol, 1.0 g | NC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H10N2O
reactant | acetic anhydride | 5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4'-Acetamidophenyl)benzoxazole | C(C)(=O)NC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C15H12N2O2
